US07683185B2
3-Mercaptobenzoic acid methyl ester (45a).
To a solution of 3-mercaptobenzoic acid (4.8 g, 31 mmol) in methanol (50 mL) at 0° C. was added a solution of hydrochloric acid in methanol (1M, 200 mL, 0.2 mol). The mixture was heated at reflux, stirred for 1 hour and concentrated under reduced pressure. The residue was taken up in ethyl acetate and the solution was washed consecutively with saturated aqueous sodium hydrogen carbonate (100 mL), distilled water (100 mL), and brine (100 mL). The organic layer was dried over anhydrous MgSO4, filtered and concentrated under reduced pressure to give the title compound as a colourless oil.

reactant | 3-mercaptobenzoic acid | 31 mmol, 4.8 g | SC=1C=C(C(=O)O)C=CC1 | C7H6O2S
reactant | hydrochloric acid | Cl | ClH
reactant | methanol | 50 mL | CO | CH4O
reactant | methanol | 0.2 mol, 1M, 200 mL | CO | CH4O
product | 3-Mercaptobenzoic acid methyl ester | COC(C1=CC(=CC=C1)S)=O | C8H8O2S
